US05574042
To a solution of 3,5-dichloro-4-formyl-N-methylaniline (242 mg) in methanol (3 ml) and tetrahydrofuran (3 ml) was added sodium borohydride (45 mg) and the mixture was stirred for 30 minutes at ambient temperature. The reaction mixture was quenched with aqueous saturated ammonium chloride solution and ethyl acetate was added thereto. The separated organic layer was washed with aqueous saturated ammonium chloride solution, dried and concentrated in vacuo to give 3,5-dichloro-4-hydroxymethyl-N-methylaniline (246 mg).

reactant | 3,5-dichloro-4-formyl-N-methylaniline | 242 mg | ClC=1C=C(NC)C=C(C1C=O)Cl | C8H7Cl2NO
reactant | sodium borohydride | 45 mg | [BH4-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-4-hydroxymethyl-N-methylaniline | 246 mg | ClC=1C=C(NC)C=C(C1CO)Cl | C8H9Cl2NO
